US07227023B2
N-[2-(5-fluoro-1H-indol-3-yl)ethyl-2,3-dihydro-1H-pyrano[3,2-f]quinolin-2-amine (“Compound 5”)
A solution of 2,3-dihydro-1H-pyrano[3,2-f]quinolin-2-amine (intermediate 1a) (0.42 g, 2.1 mmol), 3-(2-bromoethyl)-5-fluoro-1H-indole (0.39 g, 1.60 mmol), and triethylamine (0.22 mL, 3.20 mmol) in anhydrous dimethylsulfoxide (20 ml) was stirred at 100° C. for 9 hrs. The reaction mixture was poured into ice-H2O and extracted with methylene chloride. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated under vacuum. Chromatography (2% MeOH/CH2Cl2) afforded 0.22 g (38%) of product as a brown oil. It was converted to the HCl salt by dissolution in ethyl acetate and addition of 1M HCl/Et2O solution (2.4 eq) to generate N-[2-(5-fluoro-1H-indol-3-yl)ethyl-2,3-dihydro-1H-pyrano[3,2-f]quinolin-2-amine bis-hydrochloride salt as a green solid: mp 91° C./dec. MS ESI m/z 362 [M+H]+. Elemental analysis for C22H20FN3O·2.00 HCl.1.50 H2O; Calculated: C, 57.27; H, 5.46; N, 9.11. Found: C, 57.53; H, 5.29; N, 8.64.

reactant | HCl | Cl | ClH
reactant | HCl Et2O | 1M, 2.4 eq | Cl.CCOCC
reactant | 2-(5-fluoro-1H-indol-3-yl)ethyl-2,3-dihydro-1H-pyrano[3,2-f]quinolin-2-amine bis-hydrochloride salt | Cl.Cl.FC=1C=C2C(=CNC2=CC1)CCC1C(COC=2C1=C1C=CC=NC1=CC2)N
reactant | H2O | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(5-fluoro-1H-indol-3-yl)ethyl-2,3-dihydro-1H-pyrano[3,2-f]quinolin-2-amine | FC=1C=C2C(=CNC2=CC1)CCC1C(COC=2C1=C1C=CC=NC1=CC2)N | C22H20FN3O
